US07888366B2
4-Chloro-2-methylphenol (0.12 g, 0.83 mmol) and potassium carbonate were added to a cooled (0° C.) and stirred solution of 2-bromomethyl-6-nitrobenzonitrile [W. T. Ashton and J. B. Hynes, J. Med. Chem, 16, 1233 (1973)] (0.2 g, 0.83 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was stirred at 0° C. for 1.5 hours, then diluted with pyridine (1.5 mL), water, stirred for 1 hour, filtered and dried to yield 155 mg of 2-(4-chloro-2-methylphenoxymethyl)-6-nitrobenzonitrile.

reactant | 4-Chloro-2-methylphenol | 0.83 mmol, 0.12 g | ClC1=CC(=C(C=C1)O)C | C7H7ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-6-nitrobenzonitrile | 0.83 mmol, 0.2 g | BrCC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C8H5BrN2O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-(4-chloro-2-methylphenoxymethyl)-6-nitrobenzonitrile | 155 mg | ClC1=CC(=C(OCC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=C1)C | C15H11ClN2O3
